US07557212B2
Step 1: 4-[2-(4-Bromo-phenyl)-vinyl]-nicotinic Acid
0.9 g (22.5 mmol) of a 60% suspension of sodium hydride in paraffin are added to a solution of 2.25 g (30.40 mmol) of tertbutanol in 27.5 ml of DMF. The whole is heated in a water bath for 30′ till the evolution of hydrogen ends. The system is cooled at 0° C. and 2.5 g (15.13 mmol) of ethyl 4-methylnicotinate in 2.5 ml of DMF are dropped with stirring. After 1.5 hr stirring at the same temperature, 3.4 g (18.37 mmol) of 4-bromobenzaldehyde in 2.5 ml DMF are dropped. The system is stirred at room temperature overnight. The solution is poured over 100 g of ice and is filtered. The filtrate is acidified with acetic acid and the solid is filtered, washed with water and dried, yielding 1.85 g (40%) of a product that is used directly in the next step.

reactant | sodium hydride | [H-].[Na+]
reactant | tertbutanol | 30.40 mmol, 2.25 g | C(C)(C)(C)O | C4H10O
reactant | hydrogen | [H][H] | H2
reactant | ethyl 4-methylnicotinate | 15.13 mmol, 2.5 g | CC1=CC=NC=C1C(=O)OCC | C9H11NO2
reactant | 4-bromobenzaldehyde | 18.37 mmol, 3.4 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | DMF | 27.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 4-[2-(4-Bromo-phenyl)-vinyl]-nicotinic Acid | 1.85 g, 40% | BrC1=CC=C(C=C1)C=CC1=CC=NC=C1C(=O)O | C14H10BrNO2
